* Z:\mnt\design.r\spice\examples\1142HV.asc
R1 N012 N011 1K
C1 N011 0 3300p
C2 N016 0 390p
C3 N015 0 590p
R2 N013 N014 1K
C4 N014 0 3300p
M§Q1 N007 N010 0 0 FDS6680A
C5 N008 +5 1000p
L1 N007 N008 50µ
R3 N008 +5 50m
C6 +5 0 220µ Rser=0.1 x2
D1 0 N007 1N5818
M§Q2 N006 N009 0 0 FDS6680A
M§Q3 N006 N001 IN IN FDC638P
L2 N006 N005 50µ
R4 N005 +3.3 50m
D2 0 N006 1N5818
C7 N005 +3.3 1000p
Rload2 +5 0 10
Rload1 +3.3 0 10
V1 IN 0 10
M§Q4 N007 N004 IN IN FDC638P
XU1 N005 N002 0 0 MP_01 N009 MP_02 MP_03 N004 IN N016 MP_04 N013 +5 N008 N003 0 0 MP_05 N010 MP_06 MP_07 N001 IN N015 MP_08 N012 +3.3 LTC1142
C8 +3.3 0 220µ Rser=0.1 x2
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NMOS NMOS
.model PMOS PMOS
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.mos
.tran 1.5m startup
.lib LTC1142.sub
.backanno
.end
